US08981085B2
(R)-tert-Butyl 1-(5-bromo-3-butyramido-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (176 mg, 0.366 mmol) was stirred in TFA (3 mL) at room temperature for 1.5 hours. The solvent was evaporated in vacuo, and the residue purified by reverse phase chromatography (Biotage SP4, C-18 12M+, 2-50% CH3CN/water, 16CV). The isolated product was taken up in a minimal volume of methanol and added to a stirred solution of 2N HCl-Et2O. The salt formed was collected by filtration, washed with acetonitrile and dried under vacuum to give (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)butyramide (110 mg, 66% yield) as a solid. 1H NMR (400 MHz, D2O) δ 8.27 (s, 1H), 7.54 (s, 1H), 3.52-3.23 (m, 4H), 3.15-3.05 (m, 1H), 2.38 (t, 2H), 2.19-2.10 (m, 1H), 1.93-1.85 (m, 1H), 1.78-1.60 (m, 3H), 1.58-1.42 (m, 1H), 0.97 (t, 3H). LCMS (APCI+) m/z 380, 383.1 (M+H)+, Retention time=2.38 minutes.

reactant | (R)-tert-Butyl 1-(5-bromo-3-butyramido-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 0.366 mmol, 176 mg | BrC=1C(=C2C(=NC1)NC=C2NC(CCC)=O)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C21H30BrN5O3
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)butyramide | 110 mg, 66% yield | N[C@H]1CN(CCC1)C1=C2C(=NC=C1Br)NC=C2NC(CCC)=O | C16H22BrN5O
